US04085272
Preparation of 1-chloro-1-octen-3-one
This compound is prepared according to the procedure of Price and Pappalardo [C. C. Price and J. A. Pappalardo, Org. Syn., 32, 27 (1952)] from hexanoyl chloride, acetylene, and aluminum chloride in 94% yield, bp 51°-52° C (0.1 mm); λ max 1680, 1595, 941 cm-1.

reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
reactant | acetylene | C#C | C2H2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-chloro-1-octen-3-one | 94% yield | ClC=CC(CCCCC)=O | C8H13ClO
